US07678803B2
A solution of 1-amino-4-bromo-6-fluoro-isoquinoline (0.1179 g, 0.49 mmol), and hydrazine (0.5 mL) in THF (5 mL) is microwaved at 100° C. for 40 min. Then it is placed in an oil bath and is stirred at 100° C. for 16 h. The reaction mixture is cooled to RT. It is treated with NaHCO3 (satd. aq, 10 mL). The aqueous phase is extracted with EtOAc (2×). The combined organic layers are washed with brine, and dried over MgSO4. The solvent is evaporated and the residue is dried under vacuum to afford 0.079 g (64%) of 4-Bromo-6-hydrazino-isoquinolin-1-ylamine. LC/MS m/z=254 [M+H]+.

reactant | 1-amino-4-bromo-6-fluoro-isoquinoline | 0.49 mmol, 0.1179 g | NC1=NC=C(C2=CC(=CC=C12)F)Br | C9H6BrFN2
reactant | hydrazine | 0.5 mL | NN | H4N2
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-Bromo-6-hydrazino-isoquinolin-1-ylamine | 0.079 g, 64% | BrC1=CN=C(C2=CC=C(C=C12)NN)N | C9H9BrN4
